US08134001B2
In a manner similar to the method described in example 1d, 4-(4-chloro-3-fluoro-2-formyl-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester (3.75 g, 10.5 mmol) was used as the starting material in place of 4-(2-formyl-4-iodo-phenoxymethyl)-piperidine-1-carboxylic acid tert-butyl ester to react with 1,1,3,3,3-hexamethyldisilazane (2.18 mL, 10.5 mmol), n-butyllithium (2.5 M, 4.2 mL, 10.5 mmol), trimethylsilyl chloride (1.33 mL, 10.5 mmol), triethylamine (1.9 mL, 13.6 mmol) and acetyl chloride (0.97 mL, 13.6 mmol) to give crude 1-[6-(1-(tert-butoxycarbonyl)-4-piperidinyloxy)-3-chloro-2-fluoro-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used for the next step without further purification.

reactant | 4-(4-chloro-3-fluoro-2-formyl-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester | 10.5 mmol, 3.75 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=C(C=C1)Cl)F)C=O | C17H21ClFNO4
reactant | 4-(2-formyl-4-iodo-phenoxymethyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=C(C=C1)I)C=O | C18H24INO4
reactant | 1,1,3,3,3-hexamethyldisilazane | 10.5 mmol, 2.18 mL | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
reactant | n-butyllithium | 10.5 mmol, 2.5 M, 4.2 mL | C(CCC)[Li]
reactant | trimethylsilyl chloride | 10.5 mmol, 1.33 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 13.6 mmol, 1.9 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 13.6 mmol, 0.97 mL | C(C)(=O)Cl | C2H3ClO
product | 1-[6-(1-(tert-butoxycarbonyl)-4-piperidinyloxy)-3-chloro-2-fluoro-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C(=C1C=NC(=C)O[Si](C)(C)C)F)Cl | C22H32ClFN2O4Si
